US09227970B2
2-Methyl-4-(pyrrolidine-1-carbonyl)-2H-pyrazole-3-carboxylic acid (2-dimethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-amide
Using pyrrolidine and 5-(2-dimethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid, the title compound was prepared in the same manner as described for example 2. Light brown solid (120 mg, 61%). MS: m/z=383 (M+H+).

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 5-(2-dimethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | CN(C1=NN2C(C=CC(=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1)C | C14H15N7O3
product | 2-Methyl-4-(pyrrolidine-1-carbonyl)-2H-pyrazole-3-carboxylic acid (2-dimethylamino-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-amide | CN(C1=NN2C(C=CC(=C2)NC(=O)C=2N(N=CC2C(=O)N2CCCC2)C)=N1)C | C18H22N8O2
